US05464872
STAGE A: 2-NITRO-1-(2-METHOXY-1-NAPHTHYL)PROPENE
2.13 g (11.20×10-3 mol) of naphthaldehyde, 30 cm3 of nitroethane and 0.54 g (7×10-3 mol) of ammonium acetate are introduced into a round-bottomed flask. The mixture is stirred and heated to reflux for 2 hours. The nitroethane is then evaporated off under reduced pressure, the residue is taken up with CH2Cl2 and water is added to hydrolyze the acetate. After separation of the two phases, the organic phase is washed with water, the aqueous phases with CH2Cl2 (twice). The organic phase is then dried over MgSO4 and concentrated under reduced pressure. 2.59 g (10.64×10-3 mol) of the expected nitroethylenic compound (yellow solid) are then obtained, equivalent to a 95% yield.

reactant | naphthaldehyde | 11.20×10-3 mol, 2.13 g | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | ammonium acetate | 7×10-3 mol, 0.54 g | C(C)(=O)[O-].[NH4+]
reactant | nitroethane | 30 cm3 | [N+](=O)([O-])CC | C2H5NO2
product | 2-NITRO-1-(2-METHOXY-1-NAPHTHYL)PROPENE | 95% yield | [N+](=O)([O-])C(=CC1=C(C=CC2=CC=CC=C12)OC)C | C14H13NO3
